US07939540B2
Synthesis of 3-(2-chloro-6,7-dimethoxy-quinazolin-4-yl)phenylamine
Twenty-five grams of 2,4-dichloro-6,7-dimethoxyquinazoline was suspended in 2.25 L of a mixed solution consisting of toluene:tetrahydrofuran:a 2 N sodium carbonate solution=1:1:1. To the reaction mixture was added 21.5 g of 3-aminophenyl boronic acid ½ sulfate, and the mixture was degassed, the atmosphere in the reaction vessel was replaced with nitrogen. To the reaction mixture was added 2.23 g of tetrakis(triphenylphosphine)palladium(0), followed by stirring at 60° C. under a nitrogen atmosphere. Eighteen hours after initiation of the reaction, 1.2 g of tetrakis(triphenylphosphine)palladium(0) was added to the reaction mixture, and the stirring was continued. Thirty hours later, 1.2 g of tetrakis(triphenylphosphine)palladium(0) was further added to the reaction mixture, and stirring was further continued. Forty-eight hours after initiation of the reaction, the reaction mixture was cooled, and it was then transferred into a separatory funnel, so as to separate an organic layer. The obtained organic layer was washed with 300 mL of brine, and was then dried over anhydrous magnesium sulfate. The desiccant was removed by passing it through 250 g of silica gel. The silica gel was washed with 1.5 L of ethyl acetate, and the obtained organic layers were combined and concentrated to dryness. The residue was triturated with 200 mL of ethyl acetate, and the obtained solid was then filtrated. The solid was washed with 100 mL of diethyl ether and 200 mL of a mixed solution consisting of n-heptane:ethyl acetate=1:1, and dried under aeration to yield 28.2 g of a product of interest. Yield: 92.5%

reactant | 2,4-dichloro-6,7-dimethoxyquinazoline | Twenty-five grams | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-aminophenyl boronic acid | 21.5 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-chloro-6,7-dimethoxy-quinazolin-4-yl)phenylamine | 28.2 g, Yield: 92.5% | ClC1=NC2=CC(=C(C=C2C(=N1)C=1C=C(C=CC1)N)OC)OC | C16H14ClN3O2
